US07622479B2
Phosphorus pentachloride (2.27 g) was added to methanesulfonic acid (8 ml), and the mixture was stirred at 120° C. for 1 hour. To the solution were added 2-amino-5-bromophenol (1.50 g) and 4-chlorophenylacetic acid (1.36 g) and the mixture was stirred at 100° C. for 1 hour. The mixture was poured onto ice, neutralized with 8 N sodium hydroxide and extracted with ethyl acetate-tetrahydrofuran (3:1, v/v). The organic layer was washed with water and dried over MgSO4. The solvent was distilled off under reduced pressure. The residue was subjected to silica gel column chromatography and the fraction eluted with ethyl acetate-hexane (1:4, v/v) was concentrated under reduced pressure. The resulting crystals were collected by filtration to obtain 6-bromo-2-(4-chlorobenzyl)benzoxazole (1.83 g, 71%).

reactant | Phosphorus pentachloride | 2.27 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | methanesulfonic acid | 8 ml | CS(=O)(=O)O | CH4O3S
reactant | 2-amino-5-bromophenol | 1.50 g | NC1=C(C=C(C=C1)Br)O | C6H6BrNO
reactant | 4-chlorophenylacetic acid | 1.36 g | ClC1=CC=C(C=C1)CC(=O)O | C8H7ClO2
reactant | sodium hydroxide | 8 N | [OH-].[Na+]
product | 6-bromo-2-(4-chlorobenzyl)benzoxazole | 1.83 g, 71% | BrC1=CC2=C(N=C(O2)CC2=CC=C(C=C2)Cl)C=C1 | C14H9BrClNO
